US06521643B1
A suspension of 2-(4-methoxypyridin-2-yl)-4-nitrotoluene (293 mg) in tetrahydrofuran (3 ml) and ethanol (3 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 0.1 g) under a hydrogen atmosphere for 3 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give 3-(4-methoxypyridin-2-yl)-4-methylaniline (256 mg).

reactant | 2-(4-methoxypyridin-2-yl)-4-nitrotoluene | 293 mg | COC1=CC(=NC=C1)C1=C(C=CC(=C1)[N+](=O)[O-])C | C13H12N2O3
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | 3-(4-methoxypyridin-2-yl)-4-methylaniline | 256 mg | COC1=CC(=NC=C1)C=1C=C(N)C=CC1C | C13H14N2O
